US07838675B2
i) 2-[[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(methylsulfonyl)amino]-4-pyrimidinyl]oxy]-(2R)-propanoic acid ethyl ester
The subtitle compound was prepared according to the procedure outlined in example 1 step iv) using a mixture of methanesulfonamide (93 mg), tris(dibenzylideneacetone)dipalladium (0) (71 mg), 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl (XPHOS) (52 mg), cesium carbonate (0.38 g), 2-[[6-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-4-pyrimidinyl]oxy]-(2R)-propanoic acid ethyl ester (the product of Example 23 step i) (0.30 g) and dioxane (10 mL). Purification was by column chromatography on silica using EtOAc/isohexane (1:1) as eluent to give the subtitle compound as an oil. Yield: 0.28 g

reactant | methanesulfonamide | 93 mg | CS(=O)(=O)N | CH5NO2S
reactant | 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl | 52 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 0.38 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-[[6-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-4-pyrimidinyl]oxy]-(2R)-propanoic acid ethyl ester | C(C)OC([C@@H](C)OC1=NC(=NC(=C1)Cl)SCC1=C(C(=CC=C1)F)F)=O | C16H15ClF2N2O3S
catalyst | tris(dibenzylideneacetone)dipalladium | 71 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-[[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(methylsulfonyl)amino]-4-pyrimidinyl]oxy]-(2R)-propanoic acid ethyl ester | C(C)OC([C@@H](C)OC1=NC(=NC(=C1)NS(=O)(=O)C)SCC1=C(C(=CC=C1)F)F)=O | C17H19F2N3O5S2
